US07232819B2
Step 1: Methyl 5,6-bis(benzoyloxy)-2-(4-methylphenyl)pyrimidine-4-carboxylate (B-2)
A mixture of dihydroxypyrimidine methylcarboxylate (B-1) (prepared from 4-methylbenzonitrile by procedures similar to those set forth in Scheme A), 4 eq. of benzoylchloride and 8 eq. of dry pyridine was stirred in dry dichloromethane at room temperature over night. The reaction mixture was diluted with EtOAc and the organic layer was washed twice with 1N HCl, once with brine. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The solid residue was triturated with diethyl ether to give product (B-2).

reactant | dihydroxypyrimidine methylcarboxylate | CC(=O)O.OC1=CC(=NC=N1)O
reactant | 4-methylbenzonitrile | CC1=CC=C(C#N)C=C1 | C8H7N
reactant | benzoylchloride | 4 eq. | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | pyridine | 8 eq. | N1=CC=CC=C1 | C5H5N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | Methyl 5,6-bis(benzoyloxy)-2-(4-methylphenyl)pyrimidine-4-carboxylate | C(C1=CC=CC=C1)(=O)OC=1C(=NC(=NC1OC(C1=CC=CC=C1)=O)C1=CC=C(C=C1)C)C(=O)OC | C27H20N2O6
